US09163021B2
[3-tert-Butyl-1-(2-methoxyethyl)-1H-1,2,4-triazol-5-yl]acetic acid
Ethyl [3-tert-Butyl-1-(2-methoxyethyl)-1H-1,2,4-triazol-5-yl]acetate (Preparation 115, 23.1 g, 0.086 mol) was dissolved in methanol (150 mL), and 1.9N LiOH (68 mL, 0.13 mol) was added. The mixture was stirred at 0° C. for 30 minutes and concentrated in vacuo at 30° C. Water (70 mL) was added. The resulting mixture was washed with ether (3×100 mL) and neutralized with titrated 2.6N HCl (49.6 mL, 0.13 mol). The resulting precipitate was filtered, washed with water, hexane and dried to afford the title compound (16.54 g, 80%).

reactant | Ethyl [3-tert-Butyl-1-(2-methoxyethyl)-1H-1,2,4-triazol-5-yl]acetate | 0.086 mol, 23.1 g | C(C)(C)(C)C1=NN(C(=N1)CC(=O)OCC)CCOC | C13H23N3O3
reactant | LiOH | 0.13 mol, 1.9N, 68 mL | [Li+].[OH-]
reactant | HCl | 0.13 mol, 2.6N, 49.6 mL | Cl | ClH
solvent | methanol | 150 mL | CO | CH4O
product | [3-tert-Butyl-1-(2-methoxyethyl)-1H-1,2,4-triazol-5-yl]acetic acid | 16.54 g, 80% | C(C)(C)(C)C1=NN(C(=N1)CC(=O)O)CCOC | C11H19N3O3
